US05917043
1-(2,2,6,6-tetramethyl-4-piperidinyl)-4-(4-fluorophenyl)-5-acetylimidazole:
a solution of pyruvaldehyde (40% w/w solution in water, 7.56 mL, 8.91 g, 49.5 mmol) in 90 mL of DMSO at room temperature was added dropwise 2,2,6,6-tetramethyl-4-amino-piperidine (9.24 mL, 8.43 g, 65.4 mmol). After 10 min α-(p-toluenesulfonyl)-4-fluorobenzylisonitile (13.0 g, 44.95 mmol) and K2CO3 (7.46 g, 53.95 mmol) were added. After 23 h, the solution was diluted with 250 mL of EtOAc and washed with 2×200 mL of 3N HCl. The aqueous layers were combined and basified with excess solid K2CO3 until the bubbling ceased. The aqueous layer was transferred to a separatory funnel and extracted 2×250 mL of EtOAc. The combined organics were washed with 3×100 mL of water and concentrated in vacuo to yield the title compound (11.6 g, 75%) as a brown oil, which could be recrystallized from CHCl3 /hexanes: mp=134-36° C.; IR (KBR) 3430, 3144, 1659, 1653, 1219 cm-1 ; 1H NMR (CDCl3) δ7.76 (1H, s), 7.43 (2H, m), 7.12 (2H, t, J=8.7 Hz), 5.39 (1H, tt, J=3.1, 12.5 Hz), 2.11 (3H, s), 2.10 (2H, m), 1.50 (2H, t, J=12.2 Hz), 1.37 (6H, s), 1.22 (6H, s); 13C NMR (CDCl3) δ190.77, 164.69, 161.41, 149.79, 137.42, 131.47, 131.36, 127.03, 115.57, 115.29, 52.02, 50.57, 46.20, 34.61, 30.45, 28.06.

reactant | pyruvaldehyde | 49.5 mmol, 7.56 mL, 8.91 g | C(C(=O)C)=O | C3H4O2
reactant | 2,2,6,6-tetramethyl-4-amino-piperidine | 65.4 mmol, 9.24 mL, 8.43 g | CC1(NC(CC(C1)N)(C)C)C | C9H20N2
reactant | α-(p-toluenesulfonyl)-4-fluorobenzylisonitile | 44.95 mmol, 13.0 g | C1(=CC=C(C=C1)S(=O)(=O)C(C1=CC=C(C=C1)F)[N+]#[C-])C | C15H12FNO2S
reactant | K2CO3 | 53.95 mmol, 7.46 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 90 mL | CS(=O)C | C2H6OS
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
product | 1-(2,2,6,6-tetramethyl-4-piperidinyl)-4-(4-fluorophenyl)-5-acetylimidazole | 11.6 g, 75% | CC1(NC(CC(C1)N1C=NC(=C1C(C)=O)C1=CC=C(C=C1)F)(C)C)C | C20H26FN3O
